US07279487B2
Methanol (75 mL) was cooled to 0° C. and treated dropwise with thionylchloride (3.5 mL, 48 mmol). 3-aminopyridine-2-carboxylic acid (0.9 g, 6.52 mmol, prepared as described by Sucharda, Chem. Ber. 1925, 1727) was added and the mixture brought to reflux. Over the next two days, two more MeOH/thionyl chloride mixtures were made and added to the reaction. The reaction was evaporated to dryness, then treated with thionyl chloride (5.7 mL, 78.3 mmole) in 75 mL of MeOH and refluxed for two more days. The reaction was evaporated to dryness and chromatographed on silica eluting with 9:1:1 EtOH/NH4OH(H2O to give methyl 3-aminopyridine-2-carboxylate as a yellow solid.

reactant | thionylchloride | 48 mmol, 3.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminopyridine-2-carboxylic acid | 6.52 mmol, 0.9 g | NC=1C(=NC=CC1)C(=O)O | C6H6N2O2
reactant | MeOH thionyl chloride | CO.S(=O)(Cl)Cl
reactant | thionyl chloride | 78.3 mmole, 5.7 mL | S(=O)(Cl)Cl | Cl2OS
solvent | MeOH | 75 mL | CO | CH4O
solvent | Methanol | 75 mL | CO | CH4O
product | methyl 3-aminopyridine-2-carboxylate | NC=1C(=NC=CC1)C(=O)OC | C7H8N2O2
